US08580794B2
1-tert-butylpiperidin-4-amine
To a solution of 1-tert-butylpiperidin-4-one (5.0 g) in methanol (100 mL) and water (10 mL) was added ammonium formate (20.3 g) and 0.5 g of Pd/C (10%). The mixture was stirred overnight. The mixture was filtered and the filtrate was concentrated under vacuum and the residue was diluted with ethyl acetate (500 mL) and washed with water and brine. After drying over Na2SO4 and filtration, the solvent was evaporated under vacuum to provide the title compound.

reactant | 1-tert-butylpiperidin-4-one | 5.0 g | C(C)(C)(C)N1CCC(CC1)=O | C9H17NO
reactant | ammonium formate | 20.3 g | C(=O)[O-].[NH4+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 1-tert-butylpiperidin-4-amine | C(C)(C)(C)N1CCC(CC1)N | C9H20N2
